US04748165
A mixture of 5-(4-[2-propylguanidino]pyrimid-2-yl)valeramidine hydrochloride (0.4 g.) and the sodium salt of ethyl 2-formylbutyrate (1.5 g.) in MeOH (5 ml.) was heated under reflux for 4 hours. The solvent was evaporated in vacuo and the residue was partitioned between water (pH 7) and EtOAc. The EtOAc layer was separated, dried (MgSO4) and evaporated in vacuo to give 2-[4-(4-(2-propylguanidino]pyrimid-2-yl)butyl]-5-ethyl-4-hydroxypyrimidine as an oil (0.13 g.) which was characterised by conversion to the bis hydrogen maleate salt (0.11 g.), m.p. 140°-142°.

reactant | 5-(4-[2-propylguanidino]pyrimid-2-yl)valeramidine hydrochloride | 0.4 g | Cl.C(CC)N=C(NC1=NC(=NC=C1)CCCCC(=N)N)N
reactant | sodium | [Na] | Na
reactant | ethyl 2-formylbutyrate | 1.5 g | C(=O)C(C(=O)OCC)CC | C7H12O3
solvent | MeOH | 5 ml | CO | CH4O
product | 2-[4-(4-(2-propylguanidino]pyrimid-2-yl)butyl]-5-ethyl-4-hydroxypyrimidine | C(CC)N=C(NC1=NC(=NC=C1)CCCCC1=NC=C(C(=N1)O)CC)N | C18H27N7O
